US07897627B2
b) Step 2: 5,6-Difluoro-2-methylsulfanyl-benzothiazole
A suspension (0° C.) of 300 mg (1.476 mmol) 5,6-difluoro-benzothiazole-2-thiol and 306 mg (2.214 mmol) potassium carbonate in 6 mL N,N-dimethylformamide under nitrogen, were added 110.5 μL (1.77 mmol) iodomethane. The mixture was stirred at 0° C. for 1 h. The mixture was diluted with water (30 mL) and extracted with ethyl acetate. The combined extracts were washed with water and brine, dried over Na2SO4, filtered and concentrated in vacuo to provide 294 mg (91.7%) of the title compound as a solid. MS(m/e): 218.3 (M+H+).

reactant | 5,6-difluoro-benzothiazole-2-thiol | 1.476 mmol, 300 mg | FC=1C(=CC2=C(N=C(S2)S)C1)F | C7H3F2NS2
reactant | potassium carbonate | 2.214 mmol, 306 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 1.77 mmol, 110.5 μL | IC | CH3I
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | water | 30 mL | O | H2O
product | 5,6-Difluoro-2-methylsulfanyl-benzothiazole | 294 mg, 91.7% | FC=1C(=CC2=C(N=C(S2)SC)C1)F | C8H5F2NS2
